US05128355
Part A: Preparation of 2-Butyl-1-[4-(2-carbomethoxybenzoyl)benzyl]-4-chloro-5-(chloromethyl)-imidazole, hydrochloride salt
2-Butyl-1-[4-(2-carbomethoxybenzoyl)benzyl]-4-chloro-5-hydroxymethylimidazole (5.00 g, 11.3 mmol, 1 eq) was dissolved in 50 mL chloroform and to this solution was dropwise added thionyl chloride (4.13 mL, 56.6 mmol, 5 eq) with stirring at room temperature. After 4 hours, the solvent and excess thionyl chloride were removed by rotary evaporation. Toluene (100 mL) was added to the residue and the solvent again removed by rotary evaporation. Toluene was again added and while evaporating the second time, product crystallized from solution yielding 2.91 g of a while solid; m.p. 139.0°-143.5°. NMR (200 MHz, CDC3) δ8.07 (d, 1H, J=7Hz); 7.80 (d, 2H, j=10Hz); 7.68 (t, 1H, J=7Hz); 7.58 (t, 1H, J=7Hz); 7.35 (d, 1H, 7Hz); 7.13 (d, 2H, J=10Hz); 5.43 (s, 2H), 4.42 (s, 2H); 3.67 (s, 3H); 2.96 (m, 2H); 1.75 (m, 2H): 1.39 (m, 2H); 0.88 (t, 2H, J=7Hz). Mass Calcd. for C24H24Cl2N2O3 : 458.1162. Found: 458.1160.

reactant | 2-Butyl-1-[4-(2-carbomethoxybenzoyl)benzyl]-4-chloro-5-hydroxymethylimidazole | 11.3 mmol, 5.00 g, 1 eq | C(CCC)C=1N(C(=C(N1)Cl)CO)CC1=CC=C(C=C1)C(C1=C(C=CC=C1)C(=O)OC)=O | C24H25ClN2O4
reactant | thionyl chloride | 56.6 mmol, 4.13 mL, 5 eq | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Butyl-1-[4-(2-carbomethoxybenzoyl)benzyl]-4-chloro-5-(chloromethyl)-imidazole, hydrochloride salt | Cl.C(CCC)C=1N(C(=C(N1)Cl)CCl)CC1=CC=C(C=C1)C(C1=C(C=CC=C1)C(=O)OC)=O | InChI=1S/C24H24Cl2N2O3.ClH/c1-3-4-9-21-27-23(26)20(14-25)28(21)15-16-10-12-17(13-11-16)22(29)18-7-5-6-8-19(18)24(30)31-2;/h5-8,10-13H,3-4,9,14-15H2,1-2H3;1H
